US04436748
A mixture of 18 g of 6,7-dichloro-2,3-dihydro-2-isobutyl-5-methoxybenzo[b]thiophene, 90 ml of glacial acetic acid and 25 ml of boron trifluoride etherate is heated on a steam bath until dissolution occurs and for an additional 30 mins, with stirring. The reaction mixture is poured onto ice and the mixture is basified with 25% sodium hydroxide solution and extracted with ether. The ether extracts are washed with water, sodium bicarbonate solution, water, dried and filtered. Evaporation of the filtrate affords an oil which crystallies on cooling in a dry ice-acetone bath. Chromatography of the crystalline material on alumina using dichloromethane as the eluent affords 14.5 g of 6,7-dichloro-5-methoxy-2-isobutylbenzo[b]thiophene, mp 40°-41°.

reactant | 6,7-dichloro-2,3-dihydro-2-isobutyl-5-methoxybenzo[b]thiophene | 18 g | ClC=1C(=CC2=C(SC(C2)CC(C)C)C1Cl)OC | C13H16Cl2OS
reactant | acetic acid | 90 ml | C(C)(=O)O | C2H4O2
reactant | boron trifluoride etherate | 25 ml | B(F)(F)F.CCOCC
reactant | sodium hydroxide | [OH-].[Na+]
solvent | dichloromethane | ClCCl | CH2Cl2
product | 6,7-dichloro-5-methoxy-2-isobutylbenzo[b]thiophene | 14.5 g | ClC=1C(=CC2=C(SC(=C2)CC(C)C)C1Cl)OC | C13H14Cl2OS
